US07148226B2
2-[4-(2-Cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-ylmethoxy)-2-fluor-phenyl]-2-methyl-propionitrile
Sodium hydride (60%) (0.49 g, 12.3 mmol) was magnetically stirred in dry THF (33 mL) and cooled to 0° C. The mixture was then treated with Methyl acetoacetate (1.34 mL, 12.3 mmol) dropwise over 15 min. The reaction was allowed to stir for 30 min at 0° C. To the resulting clear solution was added nBuLi (1.6M in Hexanes) (7.71 mL, 12.3 mmol). The reaction was then allowed to stir for 30 min at 0° C. To the yellow solution was added 2-[4-(2-Cyclopentyl-2-oxo-ethoxy)-2-fluoro-phenyl]-2-methyl-propionitrile (1.19 g, 4.1 mmol) as a solution in dry THF (15 mL). The result was stirred at 0° C. for 15 min and then at room temperature for 90 min. The solution was next poured into 0.5N HCl (100 mL) and extracted with EtOAc (2×50 mL). The organics were concentrated and the residue dissolved in MeOH (33 mL) and treated with K2CO3 (1.5 g). The mixture was heated to 65° C. and maintained for 1 hr. The reaction was cooled and poured into 0.5N HCl (100 mL) and extracted with EtOAc (2×50 mL). The organics were dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatography (silica gel) eluting with CH2Cl2 through 1% MeOH in CH2Cl2 to yield the title compound as a white solid (1.21 g, 79%). 1H NMR (300 MHz, DMSO-d6) δ: 1.55 (m, 8 H), 1.69 (s, 6 H), 2.37 (m, 1 H), 2.62 (s, 2 H), 3.33 (s, 2 H), 4.10 (m, 2 H), 6.87 (m 2 H), 7.34 (m 1 H).

reactant | Sodium hydride | 12.3 mmol, 0.49 g | [H-].[Na+]
reactant | Methyl acetoacetate | 12.3 mmol, 1.34 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | nBuLi | 12.3 mmol, 1.6M, 7.71 mL | [Li]CCCC
reactant | 2-[4-(2-Cyclopentyl-2-oxo-ethoxy)-2-fluoro-phenyl]-2-methyl-propionitrile | 4.1 mmol, 1.19 g | C1(CCCC1)C(COC1=CC(=C(C=C1)C(C#N)(C)C)F)=O | C17H20FNO2
reactant | HCl | 0.5N, 100 mL | Cl | ClH
solvent | THF | 33 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-[4-(2-Cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-ylmethoxy)-2-fluor-phenyl]-2-methyl-propionitrile | 1.21 g, 79% | C1(CCCC1)C1(OC(CC(C1)=O)=O)COC1=CC(=C(C=C1)C(C#N)(C)C)F | C21H24FNO4
